* /Volumes/Store/Drive/DEV/KiCad/wearable_cape_v01/Documentation/Simulations/Sallen-Key-Lowpass-with-3v-Attenuation.asc
R1 N003 N001 28.7K
R2 N001 N004 28.7K
C1 N003 PE 220pF
C2 N002 N001 440pF
C3 OUT_RAW N002 1µF
V1 V+ PE 3.2V
V2 PE 0 1.8V
V3 N004 PE AC 2.45V 0
R§LOAD OUT_RAW 0 100k
XU1 N003 N002 V+ 0 N002 EL5220C
R3 N008 N006 28.7K
R4 N006 N009 28.7K
C4 N008 PE 220pF
C5 N007 N006 440pF
C6 OUT_ATT N007 1µF
V4 N005 PE AC 2.45V 0
R§LOAD1 OUT_ATT 0 100k
XU2 N008 N007 V+ 0 N007 EL5220C
R5 N005 N009 150K
R6 N009 PE 200K
.ac lin 100 0.1 20000
.inc "./models/el5220.txt"
* Above is a model of the low pass filter used on the Bela audio cape.\nThe input signal is 4.7V peak-to-peak\nThe output signal has the same swing\nThis filter has a cutoff of around 17823.81Hz\nThe original op-amp used in the audio cape is a OPA4348 (the ADD8704 is just for the Eagle footprint). \nThe EL5420 is a similar op-amp which could also be used, the most important factor is Rail-to-Rail operation.
* Let's try and make a filter that also attenuates the 0-4.7V signal to 3V peak-2-peak
.lib /Volumes/Store/Drive/DEV/KiCad/wearable_cape_v01/Documentation/Simulations/models/el5220.txt
.backanno
.end
